US05112851
a) 1-Methoxy-1-phenyl-1-tolylethane
2 g of 1-Phenyl-1-tolylethanol are stirred overnight with 0.56 g of 80% NaH in 50 ml of tetrahydrofuran, 3.7 g of methyliodide added and stirring continued for 6 hours. The mixture is worked up with aq. HCl, extracted with dichloromethane and the oily product purified over a silica gel column with cyclohexane as eluant.

reactant | 1-Phenyl-1-tolylethanol | 2 g | C1(=CC=CC=C1)C(C)(O)C1=C(C=CC=C1)C | C15H16O
reactant | NaH | 0.56 g | [H-].[Na+]
reactant | methyliodide | 3.7 g | CI | CH3I
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-Methoxy-1-phenyl-1-tolylethane | COC(C)(C1=C(C=CC=C1)C)C1=CC=CC=C1 | C16H18O
